US06538004B2
4-(3-bromo-4fluorophenyl)-1-tert-butyl-1,2,4,6,7,8-hexahydrocyclopenta[b]pyrazolo[4,3-e]pyridine-3,5-dione
5-Amino-1-tert-butyl-1,2-dihydropyrazol-3-one (0.23 g, 1.5 mmol), prepared by the method of (A. Weisberger and A. Porter, J. Amer. Chem. Soc, (1944) 66, 1849) from tert-butylhydrazine and ethyl cyanoacetate, 3-bromo-4-fluorobenzaldehyde (0.3 g, 1.5 mmol), and 1,3-cyclopentanedione (0.147 g, 1.5 mmol) in ethyl alcohol (3 mL) were heated at 80° C. for 2 days in a sealed tube. The solvent was evaporated under reduced pressure and the residue was chromatograhed on silica gel eluting with 10% ethanol/methylene chloride to provide 0.12 g of the title compound as a tan solid. 1H NMR (300 MHz, DMSO-d6) δ 1.51 (s, 9H), 2.28 (m, 2H), 2.71 (m, 2H), 4.69 (s, 1H), 7.12 (m, 1H), 7.21 (t, 1H), 7.39 (dd, 1H), 9.43 (bs, 1H), 9.57 (s, 1H); MS (ESI−) m/z 420 (M−H)−; Anal. calcd for C19H19N3BrFO2: C, 54.17;H, 4.79; N, 9.97. Found: C, 54.17;H, 4.81; N, 9.85.

reactant | 5-Amino-1-tert-butyl-1,2-dihydropyrazol-3-one | 1.5 mmol, 0.23 g | NC1=CC(NN1C(C)(C)C)=O | C7H13N3O
reactant | tert-butylhydrazine | C(C)(C)(C)NN | C4H12N2
reactant | ethyl cyanoacetate | C(#N)CC(=O)OCC | C5H7NO2
reactant | 3-bromo-4-fluorobenzaldehyde | 1.5 mmol, 0.3 g | BrC=1C=C(C=O)C=CC1F | C7H4BrFO
reactant | 1,3-cyclopentanedione | 1.5 mmol, 0.147 g | C1(CC(CC1)=O)=O | C5H6O2
solvent | ethyl alcohol | 3 mL | C(C)O | C2H6O
product | 4-(3-bromo-4fluorophenyl)-1-tert-butyl-1,2,4,6,7,8-hexahydrocyclopenta[b]pyrazolo[4,3-e]pyridine-3,5-dione | 0.12 g | BrC=1C=C(C=CC1F)C1C2=C(NC3=C1C(NN3C(C)(C)C)=O)CCC2=O | C19H19BrFN3O2
